US08232390B2
SOCl2 (2.5 eq) was added at 0° C. to a 0.2M solution of (3R,7aR)-7a-[(benzyloxy)methyl]-3-(trichloromethyl)tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-1-one in dry MeOH, and the mixture was stirred at RT for 20 min, then at reflux for 4 h. After removal of volatiles the residue was taken in EtOAc and washed with sat NaHCO3, water and brine, dried and concentrated. A 0.2M solution in dry Et2O of crude methyl 2-[(benzyloxy)methyl]-L-prolinate was added at 0° C. to a stirred mixture of LiBH4 (1.6 eq.) and MeOH (1.6 eq.) in dry Et2O (0.3M); the mixture was stirred for 2 h at RT, then quenched with water, diluted with EtOAc, washed with water and brine, dried and concentrated to afford {(2S)-2-[(benzyloxy)methyl]pyrrolidin-2-yl}methanol that was used as such. The material was dissolved in dry DCM (0.2M) and treated with carbonyl diimidazol (2.5 eq.) at RT overnight; after dilution with DCM the mixture was washed with 1N HCl, sat NaHCO3 and brine, dried over Na2SO4 and concentrated. Flash chromatography (PE:EtOAc 2:1) afforded the title compound in 43% overall yield.

reactant | SOCl2 | 2.5 eq | O=S(Cl)Cl | Cl2OS
reactant | (3R,7aR)-7a-[(benzyloxy)methyl]-3-(trichloromethyl)tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-1-one | C(C1=CC=CC=C1)OC[C@@]12N([C@H](OC1=O)C(Cl)(Cl)Cl)CCC2 | C15H16Cl3NO3
reactant | methyl 2-[(benzyloxy)methyl]-L-prolinate | C(C1=CC=CC=C1)OC[C@@]1(NCCC1)C(=O)OC | C14H19NO3
reactant | LiBH4 | 1.6 eq. | [Li+].[BH4-]
solvent | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
solvent | Et2O | 0.3M | CCOCC | C4H10O
solvent | MeOH | 1.6 eq. | CO | CH4O
product | {(2S)-2-[(benzyloxy)methyl]pyrrolidin-2-yl}methanol | C(C1=CC=CC=C1)OC[C@@]1(NCCC1)CO | C13H19NO2
